US08304419B2
To a solution of 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-(trifluoromethyl)benzonitrile (85.0 mg, 0.247 mmol), 4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxylic acid (68.3 mg, 0.247 mmol) and HATU (94 mg, 0.247 mmol) in DMF (5 ml) was added diisopropylethyl amine (0.086 ml, 0.493 mmol) and the reaction mixture was stirred for 30 minutes at rt. The reaction mixture was diluted with EtOAc and washed with water. The solvent was removed and the crude material was purified via silica gel chromatography to give 4-chloro-N-[(4-chloro-3-{[3-cyano-5-(trifluoromethyl)phenyl]oxy}-2-fluorophenyl)methyl]-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide (97 mg, 0.161 mmol, 65% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.74 (t, 1H), 8.09 (s, 1H), 7.95 (s, 1H), 7.74 (s, 1H), 7.70 (s, 1H), 7.43-7.53 (m, 1H), 7.39 (t, 1H), 5.47 (s, 2H), 4.46 (d, 2H), 3.35 (t, 2H), 0.59-0.81 (m, 2H), −0.12 (s, 9H).

reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-(trifluoromethyl)benzonitrile | 0.247 mmol, 85.0 mg | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)C(F)(F)F)F | C15H9ClF4N2O
reactant | 4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxylic acid | 0.247 mmol, 68.3 mg | ClC=1N=CN(C1C(=O)O)COCC[Si](C)(C)C | C10H17ClN2O3Si
reactant | HATU | 0.247 mmol, 94 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethyl amine | 0.493 mmol, 0.086 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-chloro-N-[(4-chloro-3-{[3-cyano-5-(trifluoromethyl)phenyl]oxy}-2-fluorophenyl)methyl]-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide | 0.161 mmol, 97 mg, 65% yield | ClC=1N=CN(C1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C(F)(F)F)C#N)F)COCC[Si](C)(C)C | C25H24Cl2F4N4O3Si
